US04873262
2-Dipropylamino-8-aminomethyl-1,2,3,4-tetrahydronaphthalene
10.6 g (35 mmol) of 2-dipropylamino-8-acetamidomethyl-1,2,3,4-tetrahydronaphthalene in 100 ml of ethanol and 23.1 g (350 mmol) of potassium hydroxide were heated to a gentle reflux for 24 h at 90° C. under nitrogen. The batch was subsequently stirred into 1 liter of ice water and the mixture was extracted with dichloromethane. The organic phase was washed with water and dried over sodium sulphate. The solvent was removed by distillation in vacuo. The reaction product, remaining as a residue, was purified by column chromatography on silica gel using methanol/triethylamine, 95:5, as eluent.

reactant | 2-dipropylamino-8-acetamidomethyl-1,2,3,4-tetrahydronaphthalene | 35 mmol, 10.6 g | C(CC)N(C1CC2=C(C=CC=C2CC1)CNC(C)=O)CCC | C19H30N2O
reactant | potassium hydroxide | 350 mmol, 23.1 g | [OH-].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Dipropylamino-8-aminomethyl-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)CN)CCC | C17H28N2
